US05665888
Synthesis of (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride
Dimethylaminochloromethyleneammonium chloride (1.52 g, 12.0 mmol) was dissolved in 7 ml of tetrahydrofuran, followed by cooling to -12° C. Added to the solution were 1.10 g (5.5 mmol) of (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid and the resulting mixture was stirred for 40 minutes. Isopropyl ether (16 ml) was added to the reaction mixture, followed by stirring for 40 minutes. Deposited crystals were collected under a nitrogen gas stream, collected by filtration and then dried, whereby 1.65 g of the title compound were obtained (yield: 96.9%).

reactant | Dimethylaminochloromethyleneammonium chloride | 12.0 mmol, 1.52 g | [Cl-].CN(C)[NH+]=CCl
reactant | (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetic acid | 5.5 mmol, 1.10 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
reactant | Isopropyl ether | 16 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride | 1.65 g, yield: 96.9% | Cl.CN(C)C=NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC | InChI=1S/C9H11ClN4O2S.ClH/c1-14(2)5-11-9-12-6(4-17-9)7(8(10)15)13-16-3;/h4-5H,1-3H3;1H/b11-5?,13-7-;
